US08349851B2
To (4-chloro-7-(trifluoromethyl)quinazolin-2-yl)(4-fluorophenyl)methanone (1 g, 2.82 mmol) in DMF (10 mL) were added DIEA (0.49 mL, 2.82 mmol), 5-methyl-1H-pyrazol-3-amine (823 mg, 8.47 mmol), and potassium iodide (468 mg, 2.82 mmol) and the mixture was stirred at rt for 2 h. To the reaction mixture was added water followed by extraction with EtOAc. The organic phases were dried over sodium sulfate. The solvent was concentrated and the residue was dried under high vacuum overnight. The crude solid (240 mg) was purified on reverse-phase preparative HPLC (elution gradient of 40-90% acetonitrile in water with 0.05% acetic acid) to afford (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)-7-(trifluoromethyl)quinazolin-2-yl)methanone as a yellow solid (40 mg, 16%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.2 (s, 3 H) 6.55 (s, 1 H) 7.35-7.5(m, 3H) 7.9-8.0(m, 1H) 8.05-8.3 (m, 4H) 11.1 (s, 1 H) 12.25 (s, 1 H) LC-MS (ESI) m/z 416 (M+H)+.

reactant | (4-chloro-7-(trifluoromethyl)quinazolin-2-yl)(4-fluorophenyl)methanone | 2.82 mmol, 1 g | ClC1=NC(=NC2=CC(=CC=C12)C(F)(F)F)C(=O)C1=CC=C(C=C1)F | C16H7ClF4N2O
reactant | DIEA | 2.82 mmol, 0.49 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-methyl-1H-pyrazol-3-amine | 8.47 mmol, 823 mg | CC1=CC(=NN1)N | C4H7N3
reactant | potassium iodide | 2.82 mmol, 468 mg | [I-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-fluorophenyl)(4-(5-methyl-1H-pyrazol-3-ylamino)-7-(trifluoromethyl)quinazolin-2-yl)methanone | 40 mg, 16% | FC1=CC=C(C=C1)C(=O)C1=NC2=CC(=CC=C2C(=N1)NC1=NNC(=C1)C)C(F)(F)F | C20H13F4N5O
